US09145441B2
Compound 104d. (E)-(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoic acid
A cooled (0° C.) solution of (R)-3-{(E)-(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one (116.7 mg, 0.222 mmol) in tetrahydrofuran/water (12 mL, 5:1) was subsequently treated with hydrogen peroxide (30% aqueous, 120 μL, 1.110 mmol) and lithium hydroxide monohydrate (18.6 mg, 0.444 mmol). After stirring at 0° C. for 3.5 h, the reaction mixture was treated with hydrogen peroxide (30% aqueous, 120 μL, 1.110 mmol) and lithium hydroxide monohydrate (18.6 mg, 0.444 mmol). After stirring at 0° C. for 2.5 h the reaction was quenched with solid sodium metabisulfite (850 mg). After stirring at room temperature for 45 mins the mixture was acidified with hydrochloric acid (1 M, 20 mL). The aqueous layer was extracted with dichloromethane (2×). The combined organics were filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 3:2 to afford the title compound (77.1 mg, 84%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 0.15 (s, 6H), 0.94 (s, 9H), 1.47 (s, 3H), 1.60 (d, J=6.5 Hz, 3H), 3.79, 3.92 (ABq, JAB=9.6 Hz, 2H), 5.08 (q, J=6.5 Hz, 1H), 6.43 (d, J=16.5 Hz, 1H), 6.72 (d, J=16.5 Hz, 1H), 7.06-7.22 (m, 2H), 7.40-7.60 (m, 2H), 7.70-7.84 (m, 2H). LCMS (m/z) 415.2 [M+H], Tr=3.40 min.

reactant | (R)-3-{(E)-(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoyl}-4-isopropyl-oxazolidin-2-one | 0.222 mmol, 116.7 mg | C(C)(C)(C)[SiH2]OC([C@](C(=O)N1C(OC[C@H]1C(C)C)=O)(\C=C\C1=CC2=CC(=CC=C2C=C1)[C@@H](C)O)C)(C)C | C30H43NO5Si
reactant | hydrogen peroxide | 1.110 mmol, 120 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 0.444 mmol, 18.6 mg | O.[OH-].[Li+]
reactant | hydrogen peroxide | 1.110 mmol, 120 μL | OO | H2O2
reactant | lithium hydroxide monohydrate | 0.444 mmol, 18.6 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran water | 12 mL | O1CCCC1.O
product | (E)-(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-4-[7-((R)-1-hydroxy-ethyl)-naphthalen-2-yl]-2-methyl-but-3-enoic acid | 77.1 mg, 84% | C(C)(C)(C)[SiH2]OC([C@](C(=O)O)(\C=C\C1=CC2=CC(=CC=C2C=C1)[C@@H](C)O)C)(C)C | C24H34O4Si
